US06924374B2
2,4-Difluoro-N,N-dimethyl-5-pyridin-4-yl-benzenesulfonamide
5-Bromo-2,4-difluoro-N,N-dimethyl-benzenesulfonamide (400 mg) and 4-pyridine-boronic acid (165 mg) was dissolved in toluene (5 ml) and abs EtoH (5 ml). To the mixture was then added Na2CO3 (200 mg) and Pd(PPh3)4 (79 mg) under an atmosphere of Argon. The resulting mixture was heated to 90° C. for 18 h. Then CH2Cl2 was added and the organic phase was washed with water and dried (MgSO4), filtered and evaporated to dryness. The residue was then used without any further purification. (MS m/z (rel. intensity, 70 eV) 298 (M+, 77), 256 (36), 191 (bp), 190 (98), 143 (74).

reactant | 5-Bromo-2,4-difluoro-N,N-dimethyl-benzenesulfonamide | 400 mg | BrC=1C(=CC(=C(C1)S(=O)(=O)N(C)C)F)F | C8H8BrF2NO2S
reactant | 4-pyridine-boronic acid | 165 mg | N1=CC=C(C=C1)B(O)O | C5H6BNO2
reactant | Na2CO3 | 200 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(PPh3)4 | 79 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2,4-Difluoro-N,N-dimethyl-5-pyridin-4-yl-benzenesulfonamide | FC1=C(C=C(C(=C1)F)C1=CC=NC=C1)S(=O)(=O)N(C)C | C13H12F2N2O2S
